US09085583B2
To a solution of 1-(4,4-difluorocyclohexyl)ethanone (1 g, 6.17 mmol) in THF (5 mL) was added a solution of ammonium acetate (9.51 g, 123.4 mmol) and NaBH3CN (3.82 g, 61.7 mmol) in MeOH. The mixture was stirred for 48 hr. The reaction mixture was quenched with aqueous NaHCO3 and extracted with tert-Butyl-methyl ether (20 mL*3). The combined organic layers were washed with 1N HCl, and the organic and aqueous layer were separated. The aqueous layer was brought to above pH 8 with 2N NaOH and extracted with ethyl acetate (20 mL*3). The organic layer was washed with brine, dried over sodium sulfate. The organic layer was concentrated to give 1-(4,4-difluorocyclohexyl)ethanamine (545 mg, crude) for next step.

reactant | 1-(4,4-difluorocyclohexyl)ethanone | 6.17 mmol, 1 g | FC1(CCC(CC1)C(C)=O)F | C8H12F2O
reactant | ammonium acetate | 123.4 mmol, 9.51 g | C(C)(=O)[O-].[NH4+]
reactant | NaBH3CN | 61.7 mmol, 3.82 g | [BH3-]C#N.[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | 1-(4,4-difluorocyclohexyl)ethanamine | 545 mg | FC1(CCC(CC1)C(C)N)F | C8H15F2N
